US07601716B2
1-(5-Chloro-2-trifluoromethylbenzyl)-7-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-(5-Chloro-2-trifluoromethylbenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (40 mg) was reacted with 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine as in General Procedure 4A to give the title compound as a pale orange solid (28% yield). M.p. 226-227° C., LCMS: m/z=503.90 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.34 (s, 3H), 2.51 (t, J=5.0 Hz, 4H), 3.47-3.56 (m, 6H), 3.62-3.69 (m, 2H), 4.61 (s, 2H), 4.92 (bs, 1H), 6.49 (d, J=1.0 Hz, 1H), 6.64 (d, J=8.8 Hz, 1H), 7.34 (d, J=8.3 Hz, 1H), 7.52-7.58 (m, 2H), 7.61-7.65 (m, 2H), 8.18 (d, J=2.3 Hz, 1H).

reactant | 1-(5-Chloro-2-trifluoromethylbenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 40 mg | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)I)C1)C(F)(F)F | C15H12ClF3IN3
reactant | 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine | CN1CCN(CC1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
product | 1-(5-Chloro-2-trifluoromethylbenzyl)-7-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 28% yield | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=NC(=CC3)N3CCN(CC3)C)C1)C(F)(F)F | C25H26ClF3N6
